* Z:\home\akeum\Desktop\VLSI\PTATSensor\CurrentSourceLVS.asc
M1 N002 N002 Neg Neg nfet l=1.2u w=12u
M2 N001 N002 N004 Neg nfet l=1.2u w=120u
M3 N001 N001 Vdd Vdd pfet l=3u w=3u
M4 N002 N001 Vdd Vdd pfet l=3u w=3u
M5 N003 N001 Vdd Vdd pfet l=3u w=9u
M6 Push_I N001 Vdd Vdd pfet l=3u w=3.9u
M7 N003 N003 Neg Neg nfet l=120u w=1.2u
M8 Pull_I N003 Neg Neg nfet l=3u w=3.9u
M9 N004 N003 Neg Neg nfet l=120u w=1.2u
M10 N001 N002 N004 Neg nfet l=1.2u w=120u

.end

001 a_n6_n101
002 a_n0_n105

5,4,3,6,10,2,1,7,9,8