* Z:\home\akeum\Desktop\VLSI\PTATSensor\finalcurrent.asc
M1 Iin Iin pos pos pfet l=3u w=3u
M3 N001 Iin pos pos pfet l=3u w=3u
M4 N002 Iin N001 pos pfet l=3u w=3u
M5 N003 Iin N002 pos pfet l=3u w=3u
M6 N004 Iin N003 pos pfet l=3u w=3u
M8 Iout Iin N004 pos pfet l=3u w=3u
M9 Iout Iin neg pos pfet l=3u w=3u
M12 neg Iin N001 pos pfet l=3u w=3u
M13 neg Iin N002 pos pfet l=3u w=3u
M14 neg Iin N003 pos pfet l=3u w=3u
M15 neg Iin N004 pos pfet l=3u w=3u
M2 N001 Iin pos pos pfet l=3u w=3u
M7 N002 Iin N001 pos pfet l=3u w=3u
M10 N003 Iin N002 pos pfet l=3u w=3u
M11 N004 Iin N003 pos pfet l=3u w=3u
.model NMOS NMOS
.model PMOS PMOS
.end
